### PR TITLE
[Merged by Bors] - feat(Analysis/Analytic): `HasFPowerSeriesOnBall.comp_sub` variations

### PR DESCRIPTION
**Pull request by vasnesterov**
Prove `HasFPowerSeriesOnBall.comp_sub` variations for `HasFPowerSeriesOnBall`'s friend structures.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 1]
```diff
@@ -493,6 +493,58 @@ theorem HasFPowerSeriesOnBall.comp_sub (hf : HasFPowerSeriesOnBall f p x r) (y :
       convert hf.hasSum hz using 2
       abel }
 
+theorem HasFPowerSeriesWithinOnBall.comp_sub (hf : HasFPowerSeriesWithinOnBall f p s x r) (y : E) :
+    HasFPowerSeriesWithinOnBall (fun (z : E) ↦ f (z - y)) p ((fun x ↦ x + y) '' s) (x + y) r where
```
Comment (urkud) [inline Mathlib/Analysis/Analytic/Basic.lean:497]: I would prefer either `s + {y}` or `y +ᵥ s` spelling for the set.

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 2]
```diff
@@ -493,6 +493,58 @@ theorem HasFPowerSeriesOnBall.comp_sub (hf : HasFPowerSeriesOnBall f p x r) (y :
...
+theorem AnalyticAt.comp_sub (hf : AnalyticAt 𝕜 f x) (y : E) :
+    AnalyticAt 𝕜 (fun (z : E) ↦ f (z - y)) (x + y) := by
+  obtain ⟨p, hf⟩ := hf
+  use p
+  apply hf.comp_sub
+
+theorem AnalyticOnNhd.comp_sub (hf : AnalyticOnNhd 𝕜 f s) (y : E) :
+    AnalyticOnNhd 𝕜 (fun (z : E) ↦ f (z - y)) ((fun x ↦ x + y) '' s) := by
+  intro x hx
+  simp at hx
```
Comment (urkud) [inline Mathlib/Analysis/Analytic/Basic.lean:529]: You can use `forall_mem_image` to avoid non-closing `simp` here.

File: Mathlib/Analysis/Analytic/Basic.lean (hunk 1 above)
Comment (vasnesterov) [reply Mathlib/Analysis/Analytic/Basic.lean:497]: Do we have any of these in Mathlib?

Comment (j-loreaux) [reply Mathlib/Analysis/Analytic/Basic.lean:497]: Yes, the first one is available with `open Pointwise in`

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 3]
```diff
@@ -493,6 +493,63 @@ theorem HasFPowerSeriesOnBall.comp_sub (hf : HasFPowerSeriesOnBall f p x r) (y :
       convert hf.hasSum hz using 2
       abel }
 
+open Pointwise in
+theorem HasFPowerSeriesWithinOnBall.comp_sub (hf : HasFPowerSeriesWithinOnBall f p s x r) (y : E) :
+    HasFPowerSeriesWithinOnBall (fun (z : E) ↦ f (z - y)) p (s + {y}) (x + y) r where
```
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/Basic.lean:498]:
```suggestion
    HasFPowerSeriesWithinOnBall (fun z ↦ f (z - y)) p (s + {y}) (x + y) r where
```
Not needed, the version without the ascription is slightly more readable IMHO. Same thing below.

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 4]
```diff
@@ -493,6 +493,63 @@ theorem HasFPowerSeriesOnBall.comp_sub (hf : HasFPowerSeriesOnBall f p x r) (y :
...
+      abel_nf at hz1
+      assumption
+    convert hf.hasSum (y := z) this hz2 using 2
+    abel
+
+theorem HasFPowerSeriesAt.comp_sub (hf : HasFPowerSeriesAt f p x) (y : E) :
+    HasFPowerSeriesAt (fun (z : E) ↦ f (z - y)) p (x + y) := by
+  obtain ⟨r, hf⟩ := hf
+  use r
+  apply HasFPowerSeriesOnBall.comp_sub hf
```
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/Basic.lean:513]:
```suggestion
  exact ⟨r, hf.comp_sub _⟩
```
Same thing below.

**Review by sgouezel — COMMENTED** [review]
LGTM, thanks!

File: Mathlib/Analysis/Analytic/Basic.lean (hunk 4 above)
Comment (sgouezel) [reply Mathlib/Analysis/Analytic/Basic.lean]: Could you use the same scheme for the other proofs below?

File: Mathlib/Analysis/Analytic/Basic.lean (hunk 3 above)
Comment (sgouezel) [reply Mathlib/Analysis/Analytic/Basic.lean]: Could you the same for the other statements below?

**Comment by sgouezel** [comment]
bors r+
Thanks!
